US04034088
Ethyl (2-methylthio-imidazol-1-yl)-acetate (14.5 g.) in 4 N sulphuric acid (30 cc.) is heated under reflux for 1 hour. The sulphate ions are then removed by adding an aqueous solution of barium hydroxide and filtering off the precipitated barium sulphate. The filtrate is treated with decolorising charcoal and is then concentrated to dryness under reduced pressure (20 mm.Hg). The residue is taken up in benzene (80 cc.) and the mixture is again concentrated to dryness under reduced pressure (20 mm.Hg); this step is then repeated. Purification of the product by recrystallisation from dimethylformamide (30 cc.) yields (2-methylthio-imidazol-1-yl)-acetic acid (7.5 g.), m.p. 176° C.

reactant | Ethyl (2-methylthio-imidazol-1-yl)-acetate | 14.5 g | CSC=1N(C=CN1)CC(=O)OCC | C8H12N2O2S
solvent | sulphuric acid | 4 N, 30 cc | S(O)(O)(=O)=O | H2O4S
product | (2-methylthio-imidazol-1-yl)-acetic acid | 7.5 g | CSC=1N(C=CN1)CC(=O)O | C6H8N2O2S
